US08865726B2
To a mixture of (S)—N—((R)-2-(tert-butyldimethylsilyloxy)-1-(2,4-difluorophenyl)ethyl)-2-methylpropane-2-sulfinamide (1.08 g, 2.76 mmol) in MeOH (8 mL) was added 4N HCl in dioxane (6.9 mL, 28 mmol) at 0° C. under N2. The reaction mixture was stirred at 0° C. for 4 hours. The solvents were evaporated in vacuo to give (R)-2-amino-2-(2,4-difluorophenyl)ethanol hydrochloride (0.58 g, 100%) as a white solid, which was used in the next step without further purification.

reactant | (S)—N—((R)-2-(tert-butyldimethylsilyloxy)-1-(2,4-difluorophenyl)ethyl)-2-methylpropane-2-sulfinamide | 2.76 mmol, 1.08 g | [Si](C)(C)(C(C)(C)C)OC[C@@H](C1=C(C=C(C=C1)F)F)N[S@@](=O)C(C)(C)C | C18H31F2NO2SSi
reactant | HCl | 4N | Cl | ClH
reactant | dioxane | 28 mmol, 6.9 mL | O1CCOCC1 | C4H8O2
solvent | MeOH | 8 mL | CO | CH4O
product | (R)-2-amino-2-(2,4-difluorophenyl)ethanol hydrochloride | 0.58 g, 100% | Cl.N[C@@H](CO)C1=C(C=C(C=C1)F)F | InChI=1S/C8H9F2NO.ClH/c9-5-1-2-6(7(10)3-5)8(11)4-12;/h1-3,8,12H,4,11H2;1H/t8-;/m0./s1
